US05250548
Ethyl 2-hydroxy-5 -phenylpyridine-3-carboxylate
Dimethylformamide (DMF) (8.1 g, 8.6 mL, 110 mmol) was added dropwise to 13.8 g (8.4 mL, 90 mmol) of phosphorus oxychloride, while the internal temperature was maintained at 25°-30° C. using an ice bath. After stirring for 5 minutes at ambient temperature, phenylacetic acid (4.1 g, 30 mmol) was added dropwise as a solution in 15 mL of DMF. The mixture was heated at 70° C. overnight. The resultant brown solution was poured onto 125 g of ice and neutralized by the careful addition of potassium carbonate. The solution was heated to 50° C., and 36 mL of 50% aqueous sodium hydroxide was added at a rate to maintain the internal temperature in the 50°-60° C. range. The reaction mixture was heated at 50° C. for 2 hours and then cooled to ambient temperature. Water was added, and the aqueous mixture was extracted twice with ethyl acetate. The combined organic extracts were dried over sodium sulfate, filtered through Celite and concentrated in vacuo. The crude product was combined with 3.4 g of ethyl cyanoacetate (3.2 mL, 30 mmol) and 0.3 mL piperidine in 7 mL of ethanol. The solution was stirred for 72 hours at ambient temperature. Diisopropylethylamine (1 mL) was added, and the mixture was heated at reflux for 24 hours. The solvents were removed in vacuo, and the residue was chromatographed on silica gel using 5% methanol/0.5% acetic acid in chloroform to isolate the desired product (blue spot under 254 nM UV light). Final purification by ether precipitation gave the product as a white solid. 1H NMR (CDCl3, 300 MHz) δ 1.43 (t, J=7 Hz, 3H), 4.44 (q, J=7 Hz, 2H), 7.35-7.53 (m, 6H); 8.20 (bs, 1H), 8.50 (d, J=3 Hz, 2H). MS (DCl/NH3) m/e 244 (M+H)+.

reactant | phosphorus oxychloride | 90 mmol, 8.4 mL, 13.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phenylacetic acid | 30 mmol, 4.1 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 36 mL | [OH-].[Na+]
reactant | ethyl cyanoacetate | 30 mmol, 3.2 mL, 3.4 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 0.3 mL | N1CCCCC1 | C5H11N
reactant | Diisopropylethylamine | 1 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 15 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 7 mL | C(C)O | C2H6O
solvent | Dimethylformamide | 110 mmol, 8.6 mL, 8.1 g | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | Ethyl 2-hydroxy-5 -phenylpyridine-3-carboxylate | 254 nM | OC1=NC=C(C=C1C(=O)OCC)C1=CC=CC=C1 | C14H13NO3
